US08389511B2
Ethyl 2-(4-bromo-2-nitrophenoxy)-2-methylbutanoate
To a solution of ethyl 2-hydroxy-2-methylbutyrate (3.5 g) in tetrahydrofuran (80 ml) was added under ice-cooling sodium hydride (1.2 g), and the mixture was stirred at room temperature for 10 minutes. To the mixture was added a drop of 15-crown-5, and further thereto was added dropwise 5-bromo-2-fluoronitrobenzene (2.8 ml), and the mixture was stirred at room temperature for 14 hours. To the reaction solution was added a saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=15/1) to give the title compound (5.5 g).

reactant | ethyl 2-hydroxy-2-methylbutyrate | 3.5 g | OC(C(=O)OCC)(CC)C | C7H14O3
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | 15-crown-5 | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 5-bromo-2-fluoronitrobenzene | 2.8 ml | BrC=1C=CC(=C(C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | Ethyl 2-(4-bromo-2-nitrophenoxy)-2-methylbutanoate | 5.5 g | BrC1=CC(=C(OC(C(=O)OCC)(CC)C)C=C1)[N+](=O)[O-] | C13H16BrNO5
